US07166605B2
To a solution of 4-bromobutanoic acid [4-[[1-[[3, 5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-1-methylethyl]thio]-2,6-bis(1,1-dimethylethyl)phenyl]ester (150 mg, 0.22 mmol) in acetonitrile/THF (15 ml 2/1 v/v), AgNO3 was added (80 mg, 0.47 mmol) and the solution was heated in the dark at 60° C. for 6 hours. The silver salt was then filtered off (AgBr) and the solvent was evaporated at reduced pressure. The product thus obtained was purified by chromatography on silica gel with a mixture of ethyl acetate/hexane as eluent (4/6 v/v) to give 4-nitrooxybutanoic acid, [4-[[1-[[3,5-bis(1,1-dimethyletihyl)-4-hydroxyphenyl]thio]-1-methylethyl]thio]-2,6-bis (1,1-dimethylethyl)-phenyl] ester (100 mg).

reactant | 4-bromobutanoic acid [4-[[1-[[3, 5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-1-methylethyl]thio]-2,6-bis(1,1-dimethylethyl)phenyl]ester | 0.22 mmol, 150 mg | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OC(CCCBr)=O)C(C)(C)C | C35H53BrO3S2
reactant | AgNO3 | [N+](=O)([O-])[O-].[Ag+]
solvent | acetonitrile THF | 15 ml | C(C)#N.C1CCOC1
product | 4-nitrooxybutanoic acid | [N+](=O)([O-])OCCCC(=O)O | C4H7NO5
